US05281715
5-Nitropyridine-2-carboxaldehyde was prepared from the nitro derivative, 2-methyl-3-nitropyridine, by the procedure employed for the synthesis of Example I, except that anhydrous dioxane was used as the solvent and the reaction time was 4 h. Yield: 2.0 g (42%); mp 66°-67° C. (lit. 66.5°-67.5° C.); TLC, Rf 0.85 (EtOAc); 1H NMR (90 MHz, CDCl3) δ 8.0 (d, 1H, 3-H, J3,4 =4.5 HZ), 8.30 (d, 1H, 4-H, J3,4 =4.5 Hz), 9.25 (s, 1H, 6-H), 10.45 (s, 1H, 2-CHO).

reactant | 2-methyl-3-nitropyridine | CC1=NC=CC=C1[N+](=O)[O-] | C6H6N2O2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Nitropyridine-2-carboxaldehyde | [N+](=O)([O-])C=1C=CC(=NC1)C=O | C6H4N2O3
